US07834219B1
4-Isobutyl cyclohexanepropanal was similarly prepared as described in Examples I and II. First, 4-isobutyl benzaldehyde (600 g, commercially available from Mitsubishi Gas Chemical Company, Inc.) was used to obtain 3-(4-isobutyl-phenyl)-propionaldehyde (568 g) with a boiling point of 119° C. at a pressure of 5 mmHg. 3-(4-Isobutyl-phenyl)-propionaldehyde (400 g) was consequently used to provide 4-isobutyl cyclohexanepropanal (245 g) with a boiling point of 107° C. at a pressure of 4.4 mmHg.

reactant | 4-Isobutyl cyclohexanepropanal | C(C(C)C)C1CCC(CC1)CCC=O | C13H24O
reactant | 4-isobutyl benzaldehyde | C(C(C)C)C1=CC=C(C=O)C=C1 | C11H14O
product | 3-(4-isobutyl-phenyl)-propionaldehyde | 568 g | C(C(C)C)C1=CC=C(C=C1)CCC=O | C13H18O
